US05280032
A mixture of 5.7 g of potassium tert-butoxide and 57 ml of ethylene glycol was heated to 80° C. Thereto was added, in 1.5 hours, a solution of 18 g of 2-(benzo[b]thiophen-5-yl)oxirane dissolved in 30 ml of dimethyl sulfoxide. The resulting mixture was stirred at the same temperature for 30 minutes. The reaction mixture was added to a mixture of 120 ml of ice water and 80 ml of ethyl acetate. The organic layer was separated. The aqueous layer was extracted twice each with 30 ml of ethyl acetate. The extracts were combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: chloroform/ethanol=20/1) to obtain 9.1 g of 1-(benzo[b]thiophen-5-yl)-2-(2-hydroxyethoxy)ethanol.

reactant | potassium tert-butoxide | 5.7 g | CC(C)([O-])C.[K+]
reactant | ethylene glycol | 57 ml | C(CO)O | C2H6O2
reactant | 2-(benzo[b]thiophen-5-yl)oxirane | 18 g | S1C2=C(C=C1)C=C(C=C2)C2OC2 | C10H8OS
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-(benzo[b]thiophen-5-yl)-2-(2-hydroxyethoxy)ethanol | 9.1 g | S1C2=C(C=C1)C=C(C=C2)C(COCCO)O | C12H14O3S
